US05391743
VI. Synthesis of 7-hydroxy-8-isoquinolinediazonium chloride
To 8-amino-7-hydroxyisoquinoline HCl salt (4.94 g, 0.025 mol) in ethanolic-HCl at 0° C. is added dropwise a solution of tert-butylnitrite (17.46 ml), ethanol (790 ml) and water (58 ml). Following completion of the addition, the solution is stirred an additional 2 hours at 0° C. The product is precipitated from the reaction mixture by the addition of diethyl ether (2 l). The product is collected by filtration and rinsed with diethyl ether to provide the desired product (2.6 g) in 50% yield.

reactant | 8-amino-7-hydroxyisoquinoline HCl salt | 0.025 mol, 4.94 g | Cl.NC=1C(=CC=C2C=CN=CC12)O
reactant | tert-butylnitrite | 17.46 ml | C(C)(C)(C)ON=O | C4H9NO2
reactant | ethanol | 790 ml | C(C)O | C2H6O
solvent | water | 58 ml | O | H2O
product | 7-hydroxy-8-isoquinolinediazonium chloride | 2.6 g, 50% yield | [Cl-].OC1=CC=C2C=CN=CC2=C1[N+]#N | InChI=1S/C9H5N3O.ClH/c10-12-9-7-5-11-4-3-6(7)1-2-8(9)13;/h1-5H;1H
